US06472190B1
Alternatively, the 3-dehydroshikimic acid was added slowly with the glucose feed. The glucose feed solution was prepared by mixing 100 mL of a solution containing 18 g of 3-dehydroshikimic acid, with a 200 mL solution containing 120 g of glucose. An oxygen sensor controlled dissolved oxygen levels via addition of the solution containing glucose (0.4 g/mL) and 3-dehydroshikimic acid (0.06 g/mL, 0.35 mmol/mL). The rate of addition of the previous feed solution was about 8 mL/h and as a result approximately 0.5 g of 3-dehydroshikimic acid was added to the culture medium every hour. By the end of the fermentation run, the total amount of 3-dehydroshikimic acid added to the growing cells was 18 g, producing 6.3 g/L of gallic acid at 48 h in a 45% (mol/mol) yield based on added 3-dehydroshikimic acid. Significant amounts of protocatechuic acid (1.8 g/L) as well as unreacted 3-dehydroshikimic acid (4.2 g/L) were present at the end of the run (FIG. 5). A 20 mL aliquot of fermentation broth was taken at 24 h, 36 h, and 48 h for determination of PHB hydroxylase activity. Although pobA* activities were stable throughout the fermentation, the majority of gallic acid was produced in stationary phase (after 24 h). Interestingly, the concentration of protocatechuic acid showed an initial increase reaching a maximum value of 3.4 g/L at 36 h, after which the concentration of protocatechuic acid steadily decreased to 1.8 g/L at 48 h (FIG. 5).

reactant | 3-dehydroshikimic acid | C1[C@H]([C@@H](C(=O)C=C1C(=O)O)O)O | C7H8O5
reactant | protocatechuic acid | C(C1=CC(O)=C(O)C=C1)(=O)O | C7H6O4
product | gallic acid | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
